US07906517B2
(3,5-Bis-trifluoromethyl-benzyl)-(5-bromo-pyrimidin-2-yl)-(5′-isopropyl-2′-methoxy-4-trifluoromethyl-biphenyl-2-ylmethyl)-amine (1.06 g) is dissolved in dimethylsulfoxide (5 ml), and the mixture is degassed and thereto are added [1,1′-bis(diphenylphosphino)ferrocene]palladium (II) dichloride (61 mg), potassium acetate (442 mg) and bis(pinacolato)diboron (571 mg). The mixture is degassed and heated to 80° C. under nitrogen flow and stirred for 45 minutes. The reaction solution is allowed to cool to room temperature, and thereto is added a saturated brine, and the mixture is extracted with ethyl acetate. The organic layer is washed twice with a saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue is dissolved in tetrahydrofuran (5 ml), and thereto is added dropwise a 30% aqueous hydrogen peroxide solution (1.5 ml) under ice-cooling and stirred at the same temperature for 1 hour and a half. To the reaction mixture is added dropwise saturated aqueous sodium thiosulfate solution under ice-cooling, and thereto is added a saturated brine, and the mixture is extracted with ethyl acetate. The organic layer is washed with a saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue is purified by silica gel column chromatography (hexane:ethyl acetate=4:1→3:1) to give 2-[(3,5-bis-trifluoromethyl-benzyl)-(5′-isopropyl-2′-methoxy-4-trifluoromethyl-biphenyl-2-ylmethyl)-amino]-pyrimidin-5-ol (866 mg). MS (m/z): 644 [M+H]+

reactant | (3,5-Bis-trifluoromethyl-benzyl)-(5-bromo-pyrimidin-2-yl)-(5′-isopropyl-2′-methoxy-4-trifluoromethyl-biphenyl-2-ylmethyl)-amine | 1.06 g | FC(C=1C=C(CN(CC2=C(C=CC(=C2)C(F)(F)F)C2=C(C=CC(=C2)C(C)C)OC)C2=NC=C(C=N2)Br)C=C(C1)C(F)(F)F)(F)F | C31H25BrF9N3O
reactant | dimethylsulfoxide | 5 ml | CS(=O)C | C2H6OS
product | 2-[(3,5-bis-trifluoromethyl-benzyl)-(5′-isopropyl-2′-methoxy-4-trifluoromethyl-biphenyl-2-ylmethyl)-amino]-pyrimidin-5-ol | 866 mg | FC(C=1C=C(CN(C2=NC=C(C=N2)O)CC2=C(C=CC(=C2)C(F)(F)F)C2=C(C=CC(=C2)C(C)C)OC)C=C(C1)C(F)(F)F)(F)F | C31H26F9N3O2
